*TB LELO_5TOTA_PMOS — Operating Point
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_5TOTA_PMOS_lpe.spi
#else
.include ../../../work/xsch/LELO_5TOTA_PMOS.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3 srcsteps=20
.temp 27

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param AVDD      = 1.8
.param vcm       = 0.4

* IBIAS current injected into diode-connected NMOS bias device.
* XM6 is diode-connected at node IBIAS and sets VGS.
* XM5 uses the same gate bias and mirrors the bias current as tail current.
* If XM5 and XM6 are matched, I_TAIL will be approximately ibias_val.
.param ibias_val = 6.26u

*-----------------------------------------------------------------
* SOURCES
*-----------------------------------------------------------------
VSS     VSS     0       dc 0
VDD     VDD     0       dc {AVDD}
VVINP   VINP    0       dc {vcm}
VVINM   VINN    0       dc {vcm}

* Current injected into IBIAS node.
* SPICE current flows from first node to second node:
* IIBIAS VSS IBIAS dc {ibias_val}
* means current flows from VSS -> IBIAS, i.e. enters IBIAS node.
IIBIAS  IBIAS   VSS     dc {ibias_val}  $ PMOS diode: drain current from IBIAS to VSS

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* NODESET — guides Newton solver starting point
*----------------------------------------------------------------
.nodeset v(vout)       = 0.75   $ mid-rail target (NMOS load Vds)
.nodeset v(xdut.net1)  = 1.35   $ tail node — close to VDD (PMOS source)
.nodeset v(xdut.net2)  = 0.50   $ NMOS diode mirror node (~Vth_n + Vov)
.nodeset v(ibias)      = 1.00   $ PMOS bias diode: VDD - |Vgs|

*----------------------------------------------------------------
* SAVE
*----------------------------------------------------------------
.save all
.save v(VDD) v(VSS) v(VINP) v(VINN) v(IBIAS) v(VOUT)
.save v(xdut.net1) v(xdut.net2)
.save i(VDD) i(IIBIAS)

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
unset askquit
set filetype=ascii

op

echo "================================================"
echo "  5T OTA — ALL NODE VOLTAGES (quiescent)"
echo "================================================"
echo ""
echo "--- Supply / Inputs ---"
print v(vdd) v(vss)
print v(vinp) v(vinn)
echo ""
echo "--- Bias node ---"
print v(ibias)
echo ""
echo "--- Internal nodes ---"
echo "  xdut.net1  = Vtail   (source of XM2/XM1, drain of XM5)"
print v(xdut.net1)
echo "  xdut.net2  = Vmirror (drain of XM1/XM3-diode, gate of XM3/XM4)"
print v(xdut.net2)
echo "  vout       = VOUT    (drain of XM2/XM4)"
print v(vout)
echo ""

echo "--- Device currents ---"
echo "  XM2 (nfet input, G=VINN):"
print @m.xdut.xm2.msky130_fd_pr__pfet_01v8[id]
echo "  XM1 (nfet input, G=VINP):"
print @m.xdut.xm1.msky130_fd_pr__pfet_01v8[id]
echo "  XM3 (pfet diode, D=G=net2):"
print @m.xdut.xm3.msky130_fd_pr__nfet_01v8[id]
echo "  XM4 (pfet mirror output, D=VOUT):"
print @m.xdut.xm4.msky130_fd_pr__nfet_01v8[id]
echo "  XM5 (nfet tail, G=IBIAS, D=net1):"
print @m.xdut.xm5.msky130_fd_pr__pfet_01v8[id]
echo "  XM6 (nfet bias diode, D=G=IBIAS):"
print @m.xdut.xm6.msky130_fd_pr__pfet_01v8[id]
echo ""

echo "--- Device gm / gds ---"
echo "  XM2 gm:"
print @m.xdut.xm2.msky130_fd_pr__pfet_01v8[gm]
echo "  XM1 gm:"
print @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gm]
echo "  XM4 gm:"
print @m.xdut.xm4.msky130_fd_pr__nfet_01v8[gm]
echo "  XM5 gm:"
print @m.xdut.xm5.msky130_fd_pr__pfet_01v8[gm]
echo "  XM2 gds:"
print @m.xdut.xm2.msky130_fd_pr__pfet_01v8[gds]
echo "  XM1 gds:"
print @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gds]
echo "  XM4 gds:"
print @m.xdut.xm4.msky130_fd_pr__nfet_01v8[gds]
echo "  XM5 gds:"
print @m.xdut.xm5.msky130_fd_pr__pfet_01v8[gds]
echo ""

echo "--- Device threshold / vdsat ---"
echo "  XM2:"
print @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vth]
print @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vdsat]
echo "  XM1:"
print @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vth]
print @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vdsat]
echo "  XM3:"
print @m.xdut.xm3.msky130_fd_pr__nfet_01v8[vth]
print @m.xdut.xm3.msky130_fd_pr__nfet_01v8[vdsat]
echo "  XM4:"
print @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vth]
print @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vdsat]
echo "  XM5:"
print @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vth]
print @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vdsat]
echo "  XM6:"
print @m.xdut.xm6.msky130_fd_pr__pfet_01v8[vth]
print @m.xdut.xm6.msky130_fd_pr__pfet_01v8[vdsat]
echo ""

* ──────────────────────────────────────────────────────────────────────
echo "================================================"
echo "  REGION CHECK  USING VDSAT"
echo "  NMOS: saturation when VDS > VDSAT"
echo "  PMOS: ngspice reports PMOS in NMOS-equivalent coordinates,"
echo "        so use VSD > VDSAT"
echo "================================================"
echo ""

* ── XM2: NMOS  G=VINN  D=VOUT  S=net1 ──────────────────────────────
let xm2_vgs      = @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vgs]
let xm2_vds      = @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vds]
let xm2_vth      = @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vth]
let xm2_vdsat    = @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vdsat]
let xm2_satmargin = xm2_vds - xm2_vdsat
echo "  XM2  NMOS   G=VINN  D=VOUT  S=net1"
echo "      VGS (V)   = $&xm2_vgs"
echo "      VDS (V)   = $&xm2_vds"
echo "      VTH (V)   = $&xm2_vth"
echo "      VDSAT (V) = $&xm2_vdsat"
echo "      Margin    = VDS - VDSAT = $&xm2_satmargin"
if xm2_satmargin > 0
    echo "      --> SATURATION  (VDS > VDSAT)"
else
    echo "      --> NOT IN SATURATION  (VDS < VDSAT)"
end
echo ""

* ── XM1: NMOS  G=VINP  D=net2  S=net1 ──────────────────────────────
let xm1_vgs      = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vgs]
let xm1_vds      = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vds]
let xm1_vth      = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vth]
let xm1_vdsat    = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vdsat]
let xm1_satmargin = xm1_vds - xm1_vdsat
echo "  XM1  NMOS   G=VINP  D=net2  S=net1"
echo "      VGS (V)   = $&xm1_vgs"
echo "      VDS (V)   = $&xm1_vds"
echo "      VTH (V)   = $&xm1_vth"
echo "      VDSAT (V) = $&xm1_vdsat"
echo "      Margin    = VDS - VDSAT = $&xm1_satmargin"
if xm1_satmargin > 0
    echo "      --> SATURATION  (VDS > VDSAT)"
else
    echo "      --> NOT IN SATURATION  (VDS < VDSAT)"
end
echo ""

* ── XM3: PMOS diode  G=D=net2  S=VDD ───────────────────────────────
let xm3_vgs      = @m.xdut.xm3.msky130_fd_pr__nfet_01v8[vgs]
let xm3_vds      = @m.xdut.xm3.msky130_fd_pr__nfet_01v8[vds]
let xm3_vth      = @m.xdut.xm3.msky130_fd_pr__nfet_01v8[vth]
let xm3_vdsat    = @m.xdut.xm3.msky130_fd_pr__nfet_01v8[vdsat]
let xm3_satmargin = xm3_vds - xm3_vdsat
echo "  XM3  PMOS   G=D=net2  S=VDD  (diode)"
echo "      VSG (V)   = $&xm3_vgs"
echo "      VSD (V)   = $&xm3_vds"
echo "      VTH (V)   = $&xm3_vth"
echo "      VDSAT (V) = $&xm3_vdsat"
echo "      Margin    = VSD - VDSAT = $&xm3_satmargin"
if xm3_satmargin > 0
    echo "      --> SATURATION  (VSD > VDSAT)"
else
    echo "      --> NOT IN SATURATION  (VSD < VDSAT)"
end
echo ""

* ── XM4: PMOS mirror output  G=net2  D=VOUT  S=VDD ─────────────────
let xm4_vgs      = @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vgs]
let xm4_vds      = @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vds]
let xm4_vth      = @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vth]
let xm4_vdsat    = @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vdsat]
let xm4_satmargin = xm4_vds - xm4_vdsat
echo "  XM4  PMOS   G=net2  D=VOUT  S=VDD  (mirror out)"
echo "      VSG (V)   = $&xm4_vgs"
echo "      VSD (V)   = $&xm4_vds"
echo "      VTH (V)   = $&xm4_vth"
echo "      VDSAT (V) = $&xm4_vdsat"
echo "      Margin    = VSD - VDSAT = $&xm4_satmargin"
if xm4_satmargin > 0
    echo "      --> SATURATION  (VSD > VDSAT)"
else
    echo "      --> NOT IN SATURATION  (VSD < VDSAT)"
end
echo ""

* ── XM5: NMOS tail  G=IBIAS  D=net1  S=VSS ─────────────────────────
let xm5_vgs      = @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vgs]
let xm5_vds      = @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vds]
let xm5_vth      = @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vth]
let xm5_vdsat    = @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vdsat]
let xm5_satmargin = xm5_vds - xm5_vdsat
echo "  XM5  NMOS   G=IBIAS  D=net1  S=VSS  (tail)"
echo "      VGS (V)   = $&xm5_vgs"
echo "      VDS (V)   = $&xm5_vds"
echo "      VTH (V)   = $&xm5_vth"
echo "      VDSAT (V) = $&xm5_vdsat"
echo "      Margin    = VDS - VDSAT = $&xm5_satmargin"
if xm5_satmargin > 0
    echo "      --> SATURATION  (VDS > VDSAT)"
else
    echo "      --> NOT IN SATURATION  (VDS < VDSAT)"
end
echo ""

* ── XM6: NMOS bias diode  G=D=IBIAS  S=VSS ─────────────────────────
let xm6_vgs      = @m.xdut.xm6.msky130_fd_pr__pfet_01v8[vgs]
let xm6_vds      = @m.xdut.xm6.msky130_fd_pr__pfet_01v8[vds]
let xm6_vth      = @m.xdut.xm6.msky130_fd_pr__pfet_01v8[vth]
let xm6_vdsat    = @m.xdut.xm6.msky130_fd_pr__pfet_01v8[vdsat]
let xm6_satmargin = xm6_vds - xm6_vdsat
echo "  XM6  NMOS   G=D=IBIAS  S=VSS  (bias diode)"
echo "      VGS (V)   = $&xm6_vgs"
echo "      VDS (V)   = $&xm6_vds"
echo "      VTH (V)   = $&xm6_vth"
echo "      VDSAT (V) = $&xm6_vdsat"
echo "      Margin    = VDS - VDSAT = $&xm6_satmargin"
if xm6_satmargin > 0
    echo "      --> SATURATION  (VDS > VDSAT)"
else
    echo "      --> NOT IN SATURATION  (VDS < VDSAT)"
end
echo ""

write {cicname}.raw
quit
.endc

.end
